US09303033B2
Hydrogen bromide (48% in water, 2.5 mL) was added dropwise to tert-butyl cyclopropyl(3-formyl-5-(5-(hydroxymethyl)thiophen-3-yl)pyrazolo[1,5-a]pyrimidine-7-yl)carbamate (561 mg, 1.35 mmol) suspended in dichloromethane (3.5 mL). The solution immediately became dark brown and homogeneous upon addition. The reaction was heated to 40° C. for 3 h, then diluted with dichloromethane (10 mL). The liquid was decanted and the gummy residue was washed with dichloromethane (3×10 mL). The combined liquids were washed successively with sat. NaHCO3 (20 mL) and brine (20 mL), and then dried over MgSO4, filtered and concentrated in vacuo. The residue was triturated with hexanes and then purified via flash column chromatography (15-40% EtOAc/hexanes) to provide 5-(5-(bromomethyl)thiophen-3-yl)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (105 mg, 20%) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ: 10.26 (s, 1H), 8.44 (s, 1H), 8.12 (d, 1H, J=1.6 Hz), 7.80 (s, 1H), 6.73 (s, 1H), 6.65 (bs, 1H), 4.80 (s, 2H), 2.81 (m, 1H), 1.03-1.09 (m, 2H), 0.84-0.89 (m, 2H). LCMS (ES): >95% pure, m/z 378 [M+1]+.

reactant | Hydrogen bromide | 2.5 mL | Br | BrH
reactant | tert-butyl cyclopropyl(3-formyl-5-(5-(hydroxymethyl)thiophen-3-yl)pyrazolo[1,5-a]pyrimidine-7-yl)carbamate | 1.35 mmol, 561 mg | C1(CC1)N(C(OC(C)(C)C)=O)C1=CC(=NC=2N1N=CC2C=O)C2=CSC(=C2)CO | C20H22N4O4S
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-(5-(bromomethyl)thiophen-3-yl)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 105 mg, 20% | BrCC1=CC(=CS1)C1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C15H13BrN4OS
